US04684655
(B) 1,6-Dihydro-2-methoxy-6-methyl-1-[3-[methyl(phenylmethyl)amino]propyl]-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methylethyl ester
A solution of 1,4-dihydro-2-methoxy-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methyethyl ester (2.0 g, 6.0 mmol) in dimethylformamide (7.0 ml) was treated with finely ground potassium carbonate (1.7 g, 12.0 mmoles), N-benzyl-3-chloro-N-methylpropylamine (2.37 g, 12.0 mmol) and a catalytic amount of 18-crown-6. The reaction was heated at 70°-75° C. under argon overnight. The reaction was allowed to cool down to room temperature and was diluted with ether. It was filtered, and the filtrate was washed with water, brine and was dried over anhydrous magnesium sulfate. Evaporation of solvent provided a brown oil which was purified by flash chromatography (20% acetone in hexanes) to yield the title compound (1.51 g) as a yellow oil.

reactant | 1,4-dihydro-2-methoxy-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methyethyl ester | 6.0 mmol, 2.0 g | COC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C | C16H19N3O5
reactant | potassium carbonate | 12.0 mmoles, 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-benzyl-3-chloro-N-methylpropylamine | 12.0 mmol, 2.37 g | C(C1=CC=CC=C1)N(C)CCCCl | C11H16ClN
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | dimethylformamide | 7.0 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 1,6-Dihydro-2-methoxy-6-methyl-1-[3-[methyl(phenylmethyl)amino]propyl]-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, 1-methylethyl ester | 1.51 g | COC=1N(C(C(=C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)C)CCCN(CC1=CC=CC=C1)C | C27H34N4O5
